US09034866B2
Synthesis of methyl (±)-10-bromo-9-fluoro-3-(hydroxy(1-methyl-1H-pyrazol-5-yl)methyl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxylate
Methyl 10-bromo-9-fluoro-3-(hydroxy(1-methyl-1H-pyrazol-5-yl)methyl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxylate was prepared similarly according to the procedure in Example 9. Methyl 10-bromo-9-fluoro-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxylate was reacted with 1-methylpyrazole-5-carbaldehyde to afford 342 mg (87% yield) of the title compound.

reactant | Methyl 10-bromo-9-fluoro-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxylate | BrC=1C(=CC2=C(C=3N(C4CC2C4)C=C(N3)C(=O)OC)C1)F | C15H12BrFN2O2
reactant | 1-methylpyrazole-5-carbaldehyde | CN1N=CC=C1C=O | C5H6N2O
product | methyl (±)-10-bromo-9-fluoro-3-(hydroxy(1-methyl-1H-pyrazol-5-yl)methyl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxylate | 342 mg, 87% yield | BrC=1C(=CC2=C(C=3N(C4CC2C4)C(=C(N3)C(=O)OC)C(C3=CC=NN3C)O)C1)F | C20H18BrFN4O3
